US07157487B2
EDC•HCL (1.78 g, 9.28 mmol) was added to a solution of indole-3-carboxylic acid (1.00 g, 6.21 mmol), ethyl 4-amino-3-chlorophenylacetate (1.33 g, 6.22 mmol) and triethylamine (1.80 mL, 12.9 mmol). The mixture was stirred at 70° C. for 24 hours. After cooling to room temperature, the reaction mixture was added with water (30 ml), followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from hexane-ethyl acetate (1:1, v/v) eluate fractions, ethyl 3-chloro-4-(3-indolylcarbonylamino)phenylacetate (1.25 g, 56%) was obtained as a pale yellow solid.

reactant | indole-3-carboxylic acid | 6.21 mmol, 1.00 g | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | ethyl 4-amino-3-chlorophenylacetate | 6.22 mmol, 1.33 g | NC1=C(C=C(C=C1)CC(=O)OCC)Cl | C10H12ClNO2
reactant | triethylamine | 12.9 mmol, 1.80 mL | C(C)N(CC)CC | C6H15N
solvent | water | 30 ml | O | H2O
product | ethyl 3-chloro-4-(3-indolylcarbonylamino)phenylacetate | 1.25 g, 56% | ClC=1C=C(C=CC1NC(=O)C1=CNC2=CC=CC=C12)CC(=O)OCC | C19H17ClN2O3
